US07696223B2
b) [(4-Butyl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 4-butyl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (41 mg, 0.12 mmol) and glycine (175 mg, 2.32 mmol) in 0.5 M sodium methoxide/methanol (4.4 mL) was refluxed for 48 h before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (20 mL) and extracted twice with methyl t-butyl ether. The remaining aqueous layer was acidified to pH=3 with 1N HCl (3.5 mL). The solid precipitate was filtered, washed with water and dried in vacuo to give the title compound as a white solid (19 mg): 1H NMR (DMSO-d6, 200 MHz): δ=9.19 (br s, 1H), 8.17 (m, 2H), 7.63 (m, 3H), 4.05 (d, J=5.8 Hz, 2H), 3.33 (m, 2H), 1.88 (m, 2H), 1.41 (m, 2H), 0.97 (t, J=7.2 Hz, 3H); MS: (+) m/z 386.13 (M+1), (−) m/z 384.13 (M−1).

reactant | 4-butyl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.12 mmol, 41 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)CCCC)N=C(S2)C2=CC=CC=C2)O | C19H20N2O3S
reactant | glycine | 2.32 mmol, 175 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 4.4 mL | C[O-].[Na+].CO
product | [(4-Butyl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 19 mg | C(CCC)C1=NC(=C(C2=C1N=C(S2)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C19H19N3O4S
